Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Bactroban / Neosporin Scar Solution
 
Attending: ___
 
Chief Complaint:
RLQ Abdominal Pain
 
Major Surgical or Invasive Procedure:
___: Successful CT-guided placement of a ___ pigtail 
catheter into the collection. 

 
History of Present Illness:
___ is a ___ year old female who presents with 2 weeks 
of RLQ abdominal pain, loose stools and diminished appetite. She 
describes the pain as crampy in nature. She denies blood in her 
stools, nausea or vomiting. SHe has not had any BMs today. She 
denies fevers or chills, chest pain or dyspnea.  

She has never had a colonoscopy but has heard she may have 
diverticulosis, though has never had a diverticulitis flair. She 
has no family or personal hx of IBD or colon cancer other than 
colon ca in her great uncle. She has never had an episode like 
this before.

ROS: a 12 point pertinent review of systems was completed and 
negative unless stated above. 
 
Past Medical History:
PMHx:
-? NUMMULAR ECZEMA 
-ANXIETY 
-ATYPICAL CHEST PAIN 
-ELEVATED AMYLASE 
-ELEVATED BLOOD PRESSURE 
-FIBROCYSTIC BREAST DISEASE 
-HEART MURMUR 
-HERPES SIMPLEX 
-OSTEOPOROSIS 
-PALPITATIONS 
-PERIMENOPAUSE 
-RETINAL HYPERPIGMENTATION 
-ACTINIC KERATOSIS 
-SEBORRHEIC KERATOSIS 

PSHx:
-none
 
Social History:
___
Family History:
Non-Contributory
 
Physical Exam:
Physical Exam on Admission:
Vitals: tachycardic to 118 vitals otherwise WNL
Gen: Well appearing, AAOx3, NAD
HEENT: No scleral icterus, midline trachea, neck supple
CV: RRR
Pulm: Breathing unlabored on room air
Abd: Soft, nontender, nondistended. Mild tenderness in 
suprapubic and RLQ.
Ext: Warm and well perfused, no edema

Physical Exam on Discharge ___:
VS: T 97.6  BP 121/85 HR 109 RR 16 O2 Sat: 97% RA 
GEN: A+Ox3, NAD
CV: RRR
Pulm: Lung sounds clear bilaterally
Abd: Soft, non-tender, non-distended. +BS
Surgical Inc: ___ drain in R upper buttock, incision site with no 
erythema, hematoma, or drainage noted with DSD. Milky tan fluid 
noted in the drain. 
Ext: Non-pitting edema in BLE, no pain.

 
Pertinent Results:
CT ABD & PELVIS WITH CONTRAST: Study Date of ___
Large, multilobulated intrapelvic abscess in close approximation 
to the sigmoid colon and rectum as well as portions of small 
bowel. The two largest components of this abscess measure 4.5 x 
7.5 and 5.3 x 2.2 cm in axial diameter. There is sigmoid 
diverticulosis suggesting that the ideology of this abscess may 
be related to diverticulitis however, the degree of associated 
wall thickening in the adjacent colon is less than would be 
expected. In addition, there is an enlarged and fluid-filled 
endometrial cavity with wall
hyperenhancement and foci of gas which is consistent concerning 
for endometritis and raises the possibility of GYN etiology of 
the large pelvic abscess.

PELVIS U.S., TRANSVAGINAL: Study Date of ___
1. Ovaries are obscured by pelvic abscesses, better seen on same 
day CT abdomen/pelvis.
2. Heterogeneous avascular material in the endometrial cavity 
with air-fluid, likely infectious inflammatory endometritis, 
transmigrated from the pelvic abscesses.

CT ABD & PELVIS W/O CONTRAST: Study Date of ___
1. Contrast seen leaking from the proximal sigmoid colon into 
the large multilobulated intrapelvic abscess, which appears 
grossly unchanged in size from prior intravenous contrast 
enhanced study. Only a minute amount of contrast is seen within 
the intrapelvic abscess; as such, other fistulous tracks cannot 
be excluded.
2. No contrast is seen within the previously noted endometrial 
collection, which appears unchanged.

___ 05:27AM BLOOD WBC-16.1* RBC-3.40* Hgb-10.0* Hct-30.5* 
MCV-90 MCH-29.4 MCHC-32.8 RDW-13.8 RDWSD-45.1 Plt ___
___ 05:22AM BLOOD WBC-16.3* RBC-3.22* Hgb-9.4* Hct-29.1* 
MCV-90 MCH-29.2 MCHC-32.3 RDW-13.9 RDWSD-46.7* Plt ___
___ 08:00AM BLOOD WBC-18.0* RBC-3.42* Hgb-10.0* Hct-30.7* 
MCV-90 MCH-29.2 MCHC-32.6 RDW-13.7 RDWSD-45.1 Plt ___
___ 04:00PM BLOOD WBC-24.0* RBC-4.06 Hgb-12.0 Hct-36.3 
MCV-89 MCH-29.6 MCHC-33.1 RDW-13.6 RDWSD-44.6 Plt ___
___ 08:00AM BLOOD Neuts-76.0* Lymphs-9.9* Monos-12.4 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-13.67* AbsLymp-1.79 
AbsMono-2.23* AbsEos-0.02* AbsBaso-0.06
___ 04:00PM BLOOD Neuts-79.7* Lymphs-8.7* Monos-9.8 
Eos-0.1* Baso-0.5 Im ___ AbsNeut-19.12* AbsLymp-2.09 
AbsMono-2.35* AbsEos-0.02* AbsBaso-0.11*
___ 10:50AM BLOOD ___
___ 05:27AM BLOOD Glucose-102* UreaN-4* Creat-0.5 Na-139 
K-4.1 Cl-98 HCO3-27 AnGap-14
___ 05:22AM BLOOD Glucose-82 UreaN-3* Creat-0.6 Na-137 
K-4.4 Cl-95* HCO3-26 AnGap-16
___ 08:00AM BLOOD Glucose-122* UreaN-5* Creat-0.6 Na-139 
K-3.9 Cl-97 HCO3-24 AnGap-18
___ 04:00PM BLOOD Glucose-111* UreaN-10 Creat-0.7 Na-130* 
K-5.0 Cl-94* HCO3-23 AnGap-13
___ 04:00PM BLOOD ALT-18 AST-31 AlkPhos-100 TotBili-0.4
___ 04:00PM BLOOD Lipase-16
___ 05:27AM BLOOD Calcium-8.5 Phos-3.2 Mg-1.7
___ 05:22AM BLOOD Calcium-8.3* Phos-3.7 Mg-2.0
___ 05:28AM BLOOD Calcium-8.6 Phos-4.4 Mg-1.5*
___ 04:00PM BLOOD Albumin-3.1*
___ 08:14AM BLOOD Lactate-1.5
___ 04:11PM BLOOD Lactate-1.6
 
Brief Hospital Course:
Patient is a ___ year old female that presented to the emergency 
department with complaints of RLQ abdominal pain and poor PO 
intake. She also reported persistent diarrhea and 'when I wiped, 
it seems like there was stool coming from my vagina'. Imaging 
was completed which demonstrated multilobulated intrapelvic 
abscess in close approximation to the sigmoid colon and rectum 
as well as portions of small bowel. There was also concern for 
an enlarged and fluid-filled endometrial cavity with wall 
hyperenhancement and foci of gas which is consistent concerning 
for endometritis. Therefore both GYN and ACS were consulted for 
evaluation and she was admitted to ___ service. 

Interventional radiology was then consulted to place a drain in 
the pelvic abscess and so on ___ she underwent successful 
placement of a ___ pigtail catheter into the collection 
and samples were sent for microbiology evaluation. She was 
started on antibiotic therapy of ceftriaxone and flagyl.

Once pain was well controlled, and it was determined no surgical 
intervention was needed, her diet was advanced as tolerated and 
antibiotics were transitioned to PO augmentin. During this 
hospitalization, the patient voided without difficulty and 
ambulated early and frequently. The patient was adherent with 
respiratory toilet and incentive spirometry and actively 
participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay.

At the time of discharge, the patient was doing well. She was 
afebrile and their vital signs were stable.  The patient was 
tolerating a regular diet, ambulating, voiding without 
assistance, and their pain was well controlled.  The patient was 
discharged home without services. Discharge teaching was 
completed and follow-up instructions were reviewed with reported 
understanding and agreement.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cetirizine 10 mg PO DAILY 
2. Ranitidine 150 mg PO BID 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
Last dose: ___ 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*19 Tablet Refills:*0 
2.  Cetirizine 10 mg PO DAILY  
3.  Multivitamins 1 TAB PO DAILY  
4.  Ranitidine 150 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Intrapelvic abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ 
evaluation of RLQ abdominal pain and anorexia. You were found to 
have a pelvic abscess and underwent drain placement to drain 
that abscess and you were placed on antibiotics. You are 
recovering well and are now ready for discharge. Please follow 
the instructions below to continue your recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

JP Drain Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*Maintain suction of the bulb.
*Note color, consistency, and amount of fluid in the drain. Call 
the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character.
*Be sure to empty the drain frequently. Record the output, if 
instructed to do so.
*You may shower; wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.
 
Followup Instructions:
___